US04010177
In the manner given in Example 47, 5-chloro-2',6'-difluoro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone is treated first with p-toluenesulfonyl chloride followed by propargylamine, to give 5-chloro-2',6'-difluoro-2-[3-[[(2-propynyl)amino]methyl]-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 5-chloro-2',6'-difluoro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2F)F)C1)N1C(=NN=C1CN(C)C)CO | C19H17ClF2N4O2
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | propargylamine | C(C#C)N | C3H5N
product | 5-chloro-2',6'-difluoro-2-[3-[[(2-propynyl)amino]methyl]-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2F)F)C1)N1C(=NN=C1CN(C)C)CNCC#C | C22H20ClF2N5O
